US08445490B2
To a solution of tert-butyl 4-((4-((4-hydroxybenzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzoate (4 g, 8.14 mmol), 1,2-dibromoethane (2.1 mL, 24.42 mmol) in acetone (20 mL) was added potassium carbonate (4.50 g, 32.6 mmol). The resulting solution was stirred for 16 h at reflux. Add another 4 eq of potassium carbonate and 3 eq of 1,2-dibromoethane. The mixture was refluxed for another 7 hs. After cooling to rt, the white solid was filtered and washed with actone. The filtrate was concentrated and purified by Biotage eluting with 20-33% ethyl acetate in hexane to give tert-butyl 4-((4-((4-(2-bromoethoxy)benzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzoate (2.91 g, 60%) as white solid.

reactant | tert-butyl 4-((4-((4-hydroxybenzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzoate | 8.14 mmol, 4 g | OC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)OC(C)(C)C)C=C2)C=C1 | C23H24F3N5O4
reactant | 1,2-dibromoethane | 24.42 mmol, 2.1 mL | BrCCBr | C2H4Br2
reactant | potassium carbonate | 32.6 mmol, 4.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 4 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 3 eq | BrCCBr | C2H4Br2
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | tert-butyl 4-((4-((4-(2-bromoethoxy)benzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzoate | 2.91 g, 60% | BrCCOC1=CC=C(CNC2=NC(=NC(=N2)OCC(F)(F)F)NC2=CC=C(C(=O)OC(C)(C)C)C=C2)C=C1 | C25H27BrF3N5O4
